US04010193
2.0 g of 3,4,5-trimethoxy-benzoic acid, 1.8 g. of cyclohexylamino-ethanol-hydrochloride and 4.0 g. of p-toluene-sulphonic acid are refluxed in 40 ml. of benzene for 12 hours. After cooling the reaction mixture is extracted with a 15% sodium carbonate solution and 10% hydrochloric acid. White crystals precipitate from the hydrochloric acid solution. Thus N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride is obtained. Mp.: 207°-208° C.

reactant | 3,4,5-trimethoxy-benzoic acid | 2.0 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | cyclohexylamino-ethanol-hydrochloride | Cl.C1(CCCCC1)NC(C)O
reactant | p-toluene-sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride | Cl.CCN(C1CCCCC1)C1=C(C(=O)O)C=C(C(=C1OC)OC)OC | InChI=1S/C18H27NO5.ClH/c1-5-19(12-9-7-6-8-10-12)15-13(18(20)21)11-14(22-2)16(23-3)17(15)24-4;/h11-12H,5-10H2,1-4H3,(H,20,21);1H
